Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
NSAIDS (Non-Steroidal Anti-Inflammatory Drug) / Reglan / aspirin
 
Attending: ___.
 
Chief Complaint:
s/p fall. 
 
Major Surgical or Invasive Procedure:
None. 

 
History of Present Illness:
___ year old female s/p trip and fall over a wire
today. The patient reports she landed face down and pushed her
life alert button for help. She was taken to ___ where imaging was consistent with a type 2 DENS 
fracture
and a C1 posterior Arch fracture. She was transferred to ___
for further care and evaluation. Upon arrival Neurosurgery was
consulted. The patient denied chest pain, SOB, diplopia, fevers
or chills. 
 
Past Medical History:
PMHx: GERD, HLD, HTN, Glaucoma , arthritis

 
Social History:
___
Family History:
NC. 
 
Physical Exam:
PHYSICAL EXAMINATION ON ADMISSION:
O: T: 98.4 BP: 171/70    HR:66    R:       O2Sats
Gen: WD/WN, comfortable, NAD.
HEENT: Pupils: Surgical pupils bilaterally 2mm EOMs intact
Extrem: Warm and well-perfused.
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Motor:
      D    B     T    WE   WF    IP    Q   H      AT    ___    G
R     5    5     5    5    5      5    5   5      5      5     5
L     5    5     5    5    5      5    5   5      5      5     5

Sensation: Intact to light touch.
Negative Hoffmans or clonus.

PHYSICAL EXAMINATION ON DISCHARGE:
Lying in bed, no acute distress. Wearing hard cervical collar. 
Alert and oriented x3. Speech fluent and clear. Comprehension 
intact.
CN II-XII grossly intact.
Motor Examination: ___ upper and lower extremity strength 
bilaterally.
No ___ sign.
Left 1-beat clonus; Right 2-beats clonus. 

 
Pertinent Results:
CTA Head & Neck: ___
1. Dental amalgam streak artifact limits study. 
2. Left vertebral artery 7 mm segment inferolateral to the 
foramen magnum 
fails to opacify with IV contrast, which may reflect vascular 
injury. 
3. Heavy atherosclerotic calcification at the right internal 
carotid origin causes 40% stenosis. 
4. Acute type 2 dens fracture and C1 anterior arch fracture are 
better 
evaluated on prior C-spine CT. 
5. Centrilobular emphysema and multiple nonspecific opacities, 
better 
evaluated on CT torso performed on same day. 

MRI Cervical Spine: ___ 
1. Minimally displaced type 2 dens fracture as well as C1 
fractures are better visualized on prior CT examination. 
2. There is no definitive evidence for ligamentous injury. 
3. Prevertebral soft tissue swelling from the C1-C2 level to 
C6-C7 is 
identified. 
4. No cord signal abnormality.  No diffusion-weighted signal 
abnormality of the cord. 
5. Multilevel degenerative changes as described above. 

 
Brief Hospital Course:
Ms. ___ was admitted to the neurosurgical service on 
___ after suffering a trip and fall while at home. She 
was transferred from ___ with a Type II dens 
fracture. She underwent a CTA of the head which showed a 
possible V3 segment injury. The imaging was reviewed by Dr. 
___ she was started on a full strength Aspirin daily. She 
was placed in a hard cervical collar to be worn at all times.

On ___, the patient remained neurologically intact on 
examination. She underwent a MRI of the cervical spine which was 
negative for ligamentous injury. 

On ___, the patient remained neurologically stable on 
examination. Prophylactic subcutaneous Heparin was held as she 
was ambulatory per Dr. ___. She was re-evaluated by 
physical and occupational therapy and it was determined she 
would be discharged to a skilled nursing facility with a plan to 
follow-up with Drs. ___ of ___ 
Neurosurgery in 1-month. 

 
Medications on Admission:
Omeprazole, simvastation, tramadol, lisinoprol/hctz, latanoprost
 
Discharge Medications:
1. Simvastatin 20 mg PO QPM 
2. Sodium Chloride 0.9%  Flush 3 mL IV Q8H and PRN, line flush 
3. Senna 8.6 mg PO BID:PRN constipation 
4. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
5. Lisinopril 10 mg PO DAILY 
6. Omeprazole 40 mg PO DAILY 
7. Ondansetron 4 mg IV Q8H:PRN nausea/vomiting 
8. OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN pain 
Hold for sedation, drowsiness or RR <12. 
RX *oxycodone 5 mg 1 tablet(s) by mouth every 4 hours Disp #*20 
Tablet Refills:*0
9. Hydrochlorothiazide 12.5 mg PO DAILY 
10. Docusate Sodium 100 mg PO BID 
11. Bisacodyl 10 mg PO/PR DAILY:PRN Constipation 
12. Aspirin 325 mg PO DAILY 
RX *aspirin 325 mg 1 tablet(s) by mouth daily. Disp #*30 Tablet 
Refills:*3
13. Acetaminophen 325-650 mg PO Q6H:PRN Pain 
Do not exceed greater than 4g Acetaminophen in a 24-hour period. 
 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Type II dens fracture.
C1 anterior arch fractures.
Left skull base fracture.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions:

Activity
•We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
•You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
•No driving while taking any narcotic or sedating medication. 
•No contact sports until cleared by your neurosurgeon. 
***     You must wear the hard cervical collar at all times. 

Medications
•Please do NOT take any blood thinning medication (Ibuprofen, 
Plavix, Coumadin) until cleared by the neurosurgeon. 
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
•It is important to increase fluid intake while taking pain 
medications. We also recommend a stool softener like Colace. 
Pain medications can cause constipation. 
***     Continue to take Aspirin 325mg by mouth daily for 
concern for arterial injury to the V3 segment. 

When to Call Your Doctor at ___ for:
•Fever greater than 101.5 degrees Fahrenheit.
•New weakness or changes in sensation in your arms or legs.

 
Followup Instructions:
___